US07442805B2
Synthesis of N-[(5-{[(4-tert-butylphenyl)sulfonyl]amino}-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-leucine
The title compound was prepared from methyl N-[(5-amino-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-leucinate and 4-tert-butylbenzenesulfonyl chloride followed the procedure of Example 1 Step 3 as an off-white solid: 1H NMR (DMSO-d6) δ 0.78 (d, J=6.3 Hz, 3H, 0.79 (d, J=6.0 Hz, 3H, 1.24 (s, 9H, 1.30-1.60 (m, 3H, 3.74 (s, 3H, 4.25-4.35 (m, 1H), 7.08 (dd, J=8.8, 2.0 Hz, 1H, 7.25-7.32 (m, 4H, 7.33-7.40 (m, 2H, 7.45 (d, J=7.9 Hz, 1H), 7.54 (d, J=7.8 Hz, 2H, 7.59 (d, J=8.7 Hz, 2H, 8.76 (d, J=7.8 Hz, 1H, 9.85 (s, 1H, 12.64 (br s, 1H; MS (ESI) m/z 576 (MH+); MS (ESI) m/z 574 [M-H]−; HRMS calcd for C32H38N3O5S: 576.2530; found (ESI+): 576.2518; Anal. calcd for C32H37N3O5S.0.5H2O: C, 65.73; H, 6.55; N, 7.19. Found: C, 65.41; H, 6.45; N, 7.16.

reactant | methyl N-[(5-amino-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-leucinate | NC=1C=C2C(=C(N(C2=CC1)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C1=CC=CC=C1 | C23H27N3O3
reactant | 4-tert-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | N-[(5-{[(4-tert-butylphenyl)sulfonyl]amino}-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-leucine | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C(=C(N(C2=CC1)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C1=CC=CC=C1 | C32H37N3O5S
